US05707931
6-Chloro-4-(2-chloroallylamino)-3-propionyl-8-trifluoromethyl-2-quinolinone (76)
6- Chloro-4-methylsulfoxy-3-propionyl-8-trifluoromethyl-2-quinolinone (365 mg, 1 mmol) and 2-chloroallylamine (92 mg, 1 mmol) were used and the reaction was carried out as in the above process of example 1 to obtain the desired product (279 mg, yield: 71%).

reactant | 6- Chloro-4-methylsulfoxy-3-propionyl-8-trifluoromethyl-2-quinolinone | 1 mmol, 365 mg | ClC=1C(=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(CC)=O)C)OS(=O)(=O)O | C14H11ClF3NO6S
reactant | 2-chloroallylamine | 1 mmol, 92 mg | ClC(CN)=C | C3H6ClN
product | 6-Chloro-4-(2-chloroallylamino)-3-propionyl-8-trifluoromethyl-2-quinolinone | 279 mg, yield: 71% | ClC=1C=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(CC)=O)NCC(=C)Cl | C16H13Cl2F3N2O2
